US05663363
To a cooled solution of ethylbromoacetate (37.6 g) in diethyl ether (75 mL), was added propargylamine (25 g). The mixture was stirred for 3 hour at 0°-5° C. The reaction temperature was raised to ambient temperature, and the stirring continued for 18 hours. A solid formed. The solid was filtered and discarded. The filtrate was evaporated to dryness to give crude ethyl-N-propargylaminoacetate (30.1 g). The crude product was used without further purification.

reactant | ethylbromoacetate | 37.6 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | propargylamine | 25 g | C(C#C)N | C3H5N
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | ethyl-N-propargylaminoacetate | 30.1 g | C(C)OC(CNCC#C)=O | C7H11NO2
